*$
*//-----------------------------------------------------------------------//
*//   Part No.    : HHXE350ARA151MHA0G
*//   Date        : 2020/12/04
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXE350ARA151MHA0G_20deg-C 1 2

C1 4 2 1.07e-04
C2 5 2 2.43e-05
C3 6 2 1.04e-05
R1 3 4 9.29e-03
R2 4 5 9.15e-02
R3 5 6 5.89e+00
L1 1 3 3.70e-09

.ENDS
*$
